US07696223B2
c) 5-{[(2,4-Dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-2-phenyl-thiazole-4-carboxylic acid ethyl ester
A mixture of 5-bromomethyl-2-phenyl-thiazole-4-carboxylic acid ethyl ester (596 mg, 1.83 mmol), (2,4-dimethoxy-benzylamino)-acetic acid ethyl ester (511 mg, 2.02 mmol) and potassium carbonate (380 mg, 2.75 mmol) in anhydrous dimethylformamide (7 mL) was stirred at room temperature for 20 h before it was quenched with water, extracted with ethyl acetate. The organic layer was washed with water, brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of ethyl acetate and hexanes to give the title compound as a white solid (562 mg): MS: (+) m/z 521.1 (M+Na+).

reactant | 5-bromomethyl-2-phenyl-thiazole-4-carboxylic acid ethyl ester | 1.83 mmol, 596 mg | C(C)OC(=O)C=1N=C(SC1CBr)C1=CC=CC=C1 | C13H12BrNO2S
reactant | (2,4-dimethoxy-benzylamino)-acetic acid ethyl ester | 2.02 mmol, 511 mg | C(C)OC(CNCC1=C(C=C(C=C1)OC)OC)=O | C13H19NO4
reactant | potassium carbonate | 2.75 mmol, 380 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | 5-{[(2,4-Dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-2-phenyl-thiazole-4-carboxylic acid ethyl ester | 562 mg | C(C)OC(=O)C=1N=C(SC1CN(CC(=O)OCC)CC1=C(C=C(C=C1)OC)OC)C1=CC=CC=C1 | C26H30N2O6S
